delta_loaded_network - fault test
Vin A 0 DC 12
Ra A B 1218.420359
Rb B C 29.654287
Rc C A 29.772176
Rload B 0 29.463287
.op
.control
run
print v(A) v(B) v(C)
print @ra[i] @rb[i] @rc[i] @rload[i]
.endc
.end
